Name:  ___          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
___: Coronary angiogram

 
History of Present Illness:
Ms. ___ is a ___ yo F with a sig PMHx of CAD s/p CABG 
LIMA-LAD, SVG-OM, SVG-PDA in ___, s/p PCI with DES to SVG-OM in 
___ who presents with chest pain. 

The patient was in her usual state of health until 3 days prior 
to admission, when she began experiencing intermittent chest 
pain radiating to her arms b/l. The pain is non exertional, non 
pleuritic or positional, and lasted ___ hour -1 hour in 
duration. Over the course of the past 3 days, she remembers 3 
episodes of chest pain that occurred spontaneously. The episodes 
resolved initially without intervention, however the last 2 
episodes,required SL NG X2, which alleviated her symptoms 
slightly. She denied any associated dyspnea, diaphoresis, 
abdominal pain, n/v, presyncope or syncope. Of note, the patient 
states that she has worsening acid reflux, which is 
characterized by burning throat pain. She states that this pain 
was not like her current pain. She denies any fevers, chills, 
leg swelling, cough, congestion.  

Given that her pain was similar to her prior MI, she presented 
to ___ for further evaluation.

 
Past Medical History:
PAST MEDICAL HISTORY
====================
1. CARDIAC RISK FACTORS
- Diabetes, Insulin dependent
- Hypertension
- Dyslipidemia

2. CARDIAC HISTORY
- CAD, inferior wall MI ___, CABG:  LIMA-LAD, SVG-OM,
SVG-PDA in ___. Symptoms: chest pressure, LUE/jaw
discomfort. SVG-OM DES 11.10.

3. OTHER PAST MEDICAL HISTORY
- GERD
- Obstructive sleep apnea, intolerant to CPAP
- Depression
 
Social History:
___
Family History:
Has a ___ son with unknown type of congenital heart 
disease.  Father with MI, age ___, CABG, PPM, deceased in ___ 
from melanoma.  Three siblings, one brother with sudden cardiac 
death after MI age ___.  Older sister with silent MI.
 
Physical Exam:
Physical Exam on Admit:
=======================
- Initial vitals:
T 98.1 HR 64 BP 200/79 RR 18 SPO2 98% RA
- Exam: 
Head: Normocephalic and atraumatic
Eyes: PERRL, EOMi
Lungs: CTAB
Cardiac: RRR, no murmur
Abdomen: Soft, nontender, nondistended
GU: No CVA tenderness
Musculoskeletal: No obvious deformities of limbs
Extremities: no ___ edema
Neurologic: Awake, alert, moves all extremities. Speech fluent.
Dermatologic: Skin is warm and dry

 
Pertinent Results:
Labs on Admit:
==================
___ 10:35PM 
WBC-10.2* RBC-4.26 Hgb-12.5 Hct-38.0 MCV-89 MCH-29.3 MCHC-32.9 
RDW-13.0 RDWSD-42.4 Plt ___
Neuts-56.7 ___ Monos-9.1 Eos-2.2 Baso-0.3 Im ___ 
AbsNeut-5.77 AbsLymp-3.17 AbsMono-0.92* AbsEos-0.22 AbsBaso-0.03
___ PTT-132.7* ___
Glucose-67* UreaN-12 Creat-0.7 Na-142 K-4.1 Cl-102 HCO3-28 
AnGap-12
Calcium-9.8 Phos-3.5 Mg-1.7
%HbA1c-8.1* eAG-186*

___ 10:35PM cTropnT-<0.01
___ 07:21AM CK-MB-4 cTropnT-<0.01
___ 07:21AM CK(CPK)-118
___ 05:00PM cTropnT-<0.01

Results:
====================
- EKG (___): HR 57 bpm. PR 178ms. normal axis. TWI III, aVF. 
ST
depression V6. IVCD. Unchanged from prior.

CXR (___): FINDINGS:  Lungs are clear without focal 
consolidation.  There is no evidence of pulmonary edema large 
pleural effusion or pneumothorax.  There is mild cardiomegaly.  
Patient is status post median sternotomy with multiple surgical 
clips projecting over the mediastinum.  The osseous structures 
are unremarkable. 
.
Coronary angiogram ___:
Coronary Anatomy
Coronary Description
LM
The left main coronary artery is calcified, without significant 
disease.
LAD
The left anterior descending coronary artery is calcified, with 
mid subtotal occlusion after D1.
Circ
The circumflex coronary artery is with diffuse 60% proximal and 
mid occlusion. OM1 is small caliber
with diffuse 50-60% proximal.
RCA
The right coronary artery is with mid ___ occlusion.
LIMA-LAD
A LIMA-LAD is widely patent.
SVG-OM
A saphenous vein graft to the OM is widely patent.
SVG-RPDA
A saphenous vein graft to the RPDA is widely patent. is widely 
patent
Complications: There were no clinically significant 
complications.
Findings
• Three vessel coronary artery disease.
• Widely patent grafts.
Recommendations
• Maximize medical therapy.

 
Brief Hospital Course:
Assessment: ___ year old woman with a PMH of CAD s/p CABG and PCI
here with unstable angina.

Plan: 
#unstable angina/CAD: 
Troponins negative and EKG w/o change, however chest
pressure persists. Initially thought angina but coronary 
angiogram did not show any significant change from prior, with 
LIMA and 2 SVGs patent. Patient feels that this may be more 
severe GERD and she was encouraged to take ranitidine 75 mg at 
night in addition to her omeprazole and sulcrafate. Increase 
activity decrease calorie consumption as outpt to
promote weight loss. Recommended cardiac rehab.

#GERD: states that UA coincided with worsening GERD which she
experiences as throat burning. She has undergone several
gastrointestinal studies including esophageal manometry which
demonstrated a 4 cm hiatal hernia. She had an pH esophageal
study which showed appropriate acid suppression.
-MOM and TUMs PRN
-Continue home Omeprazole 40mg and sulcrafate. Start ranitidine 
150 mg at night.

Chronic Issues:
---------------

#HTN: SBP 200 in ED currently 101-149. Suspect BP in ED d/t
pain/anxiety. Restarted lisinopril metoprolol at discharge.

#Diabetes: Poorly controlled. Discussed with patient.
Hgb A1c 8.1 on admit. Is prescribed Januvia but has not yet
started. Metformin should be held for 48 hours post discharge. 
As noted above encouraged exercise in cardiac rehab.

#DLD: Last lipids ___ TC94.TG126. Continued Atorvastatin 80mg 
and fish oil.

#Depression: stable. Continued fluoxetine

#Obstructive Sleep apnea: intolerant to cpap
Has seen RD for dietary education

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever 
2. Fish Oil (Omega 3) 1000 mg PO BID 
3. trospium 20 mg oral BID 
4. Metoprolol Succinate XL 100 mg PO DAILY 
5. MetFORMIN (Glucophage) 1000 mg PO BID 
6. Docusate Sodium 100 mg PO BID 
7. Psyllium Powder 1 PKT PO TID:PRN constipation 
8. Mometasone Nasal Spray  (*NF*) 100 mcg Other DAILY 
9. Atorvastatin 80 mg PO QPM 
10. dulaglutide 0.75 mg/0.5 mL subcutaneous Q weekly 
11. Multivitamins 1 TAB PO DAILY 
12. Isosorbide Mononitrate (Extended Release) 180 mg PO DAILY 
13. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
14. Sucralfate 1 gm PO QID 
15. Omeprazole 40 mg PO BID 
16. Calcium Carbonate 1500 mg PO DAILY 
17. Aspirin 81 mg PO DAILY 
18. Loratadine 10 mg PO DAILY 
19. FLUoxetine 40 mg PO DAILY 
20. Cyanocobalamin 1000 mcg PO DAILY 
21. Vitamin D 1000 UNIT PO DAILY 
22. Isosorbide Mononitrate (Extended Release) 30 mg PO QPM 
23. Lisinopril 20 mg PO DAILY 

 
Discharge Medications:
1.  Ranitidine 150 mg PO QHS  
2.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild/Fever  
3.  Aspirin 81 mg PO DAILY  
4.  Atorvastatin 80 mg PO QPM  
5.  Calcium Carbonate 1500 mg PO DAILY  
6.  Cyanocobalamin 1000 mcg PO DAILY  
7.  Docusate Sodium 100 mg PO BID  
8.  dulaglutide 0.75 mg/0.5 mL subcutaneous Q weekly  
9.  Fish Oil (Omega 3) 1000 mg PO BID  
10.  FLUoxetine 40 mg PO DAILY  
11.  Isosorbide Mononitrate (Extended Release) 180 mg PO DAILY  
12.  Isosorbide Mononitrate (Extended Release) 30 mg PO QPM  
13.  Lisinopril 20 mg PO DAILY  
14.  Loratadine 10 mg PO DAILY  
15.  Metoprolol Succinate XL 100 mg PO DAILY  
16.  Mometasone Nasal Spray  (*NF*) 100 mcg Other DAILY  
17.  Multivitamins 1 TAB PO DAILY  
18.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
19.  Omeprazole 40 mg PO BID  
20.  Psyllium Powder 1 PKT PO TID:PRN constipation  
21.  Sucralfate 1 gm PO QID  
22.  trospium 20 mg oral BID  
23.  Vitamin D 1000 UNIT PO DAILY  
24. HELD- MetFORMIN (Glucophage) 1000 mg PO BID  This medication 
was held. Do not restart MetFORMIN (Glucophage) until ___ 
morning

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Chest pain
Coronary artery disease
Diabetes on insulin
Depression
Hyperlipidemia
GERD
Hypertension
Obstructive sleep apnea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with chest pain. Your electrocardiogram and 
cardiac enzymes (lab work) did not show any signs of heart 
attack. You had a cardiac catheterization that revealed no 
change in your heart artery blockages.  It is possible that your 
symptoms could be because of worsening GERD.

Instructions regarding activity restrictions and care of the 
access site are included with your discharge information.  

Please continue your current medications with the following 
changes:  
- continue Aspirin 81mg daily, lifelong.  
- Continue nitroglycerin as needed for chest pain. Take 1 tab 
under the tongue as needed for chest pain. You may repeat this 
every 5 mintues for continued chest pain for a TOTAL OF 3 DOSES. 
If chest pain persists after 3 doses, call ___. MAKE SURE YOU 
LIE DOWN IF YOU NEED TO TAKE THIS MEDICATION.  
- start taking ranitidine 150 mg at night, this might help with 
your heartburn. 

  It is strongly recommended that you attend a cardiac rehab 
program in the near future. A referral form was provided to you 
that lists the locations of these programs. Please bring this 
with you to your follow up visit with your cardiologist, and 
they will inform you when it is safe to begin a program. 
 
 If you have any urgent questions that are related to your 
recovery from your hospitalization or are experiencing any 
symptoms that are concerning to you and you think you may need 
to return to the hospital, please call the ___ HeartLine at 
___ to speak to a cardiologist or cardiac nurse 
practitioner.  

 It has been a pleasure to have participated in your care and we 
wish you the best with your health!  

 Your ___ Cardiac Care Team  
 
Followup Instructions:
___